US07329662B2
5-(4-Chloro-3-methyl-phenyl)-2-cyanomethyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(4-chloro-3-methyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (132 mg, 0.5 mmol), prepared from commercially available 4-chloro-3-methyl-acetophenone according to general procedure A, and commercially available 3-amino-4-cyano-5-cyanomethyl-pyrazole (74 mg, 0.5 mmol) according to general procedure B yielded the title compound as a light yellow solid (99 mg, 53%). MS (ISP) 376.1 [(M+H)+]; mp 238° C.

reactant | 1-(4-chloro-3-methyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 132 mg | ClC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C | C11H8ClF3O2
reactant | 3-amino-4-cyano-5-cyanomethyl-pyrazole | 0.5 mmol, 74 mg | NC1=NNC(=C1C#N)CC#N | C6H5N5
product | 5-(4-Chloro-3-methyl-phenyl)-2-cyanomethyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 99 mg, 53% | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2C#N)CC#N)C | C17H9ClF3N5
